US05360807
A mixture of 2.9 parts of ethyl 4-[(1H-benzimidazol-2-yl)amino]-1-piperidinecarboxylate, 1.8 parts of 4-(chloromethyl)-2-methylthiazole monohydrochloride, 2.12 pans of sodium carbonate and 45 parts of N,N-dimethylacetamide was stirred overnight at 70° C. The reaction mixture was poured into water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated and the residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.5 parts (37.5%) of ethyl 4-[[1-[(2-methyl-4-thiazolyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate; mp. 160° C. (comp. 12).

reactant | ethyl 4-[(1H-benzimidazol-2-yl)amino]-1-piperidinecarboxylate | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
reactant | 4-(chloromethyl)-2-methylthiazole monohydrochloride | Cl.ClCC=1N=C(SC1)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | ethyl 4-[[1-[(2-methyl-4-thiazolyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate | 37.5% | CC=1SC=C(N1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C20H25N5O2S
